US04904670
N-[{2-(4-Chlorophenyl)-6-methyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyridin-3-yl}methyl]-N,3-dimethylbutanamide hydrochloride.
3 g (8.1 mmol) of N-[{2-(4-chlorophenyl)-6-methylimidazo[1,2-a]pyridin-3-yl}methyl]-N,3-dimethylbutanamide hydrochloride is dissolved in 200 ml of acetic acid, 0.7 g of rhodium on alumina (5% rhodium) is added and the mixture is hydrogenated under a pressure of approximately 0.35 MPa (50 PSI) until absorption is complete. The catalyst is removed by filtration and the solvent evaporated off under reduced pressure. The residue is taken up with dichloromethane and the solution washed with bicarbonate water. The organic phase is separated after settling and dried over magnesium sulphate. After filtration and evaporation of the solvent, a solid residue is taken up with ether and purified by chromatography on a silica column. The hydrochloride is prepared therefrom in 0.1N hydrogen chloride in isopropyl alcohol. 1.55 g of the expected product is obtained.

reactant | N-[{2-(4-chlorophenyl)-6-methylimidazo[1,2-a]pyridin-3-yl}methyl]-N,3-dimethylbutanamide hydrochloride | 8.1 mmol, 3 g | Cl.ClC1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)C)C1CN(C(CC(C)C)=O)C
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | hydrogen chloride | 0.1N | Cl | ClH
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
catalyst | rhodium on alumina | 0.7 g | [Rh] | Rh
product | N-[{2-(4-Chlorophenyl)-6-methyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyridin-3-yl}methyl]-N,3-dimethylbutanamide hydrochloride | 1.55 g | Cl.ClC1=CC=C(C=C1)C=1N=C2N(CC(CC2)C)C1CN(C(CC(C)C)=O)C | InChI=1S/C21H28ClN3O.ClH/c1-14(2)11-20(26)24(4)13-18-21(16-6-8-17(22)9-7-16)23-19-10-5-15(3)12-25(18)19;/h6-9,14-15H,5,10-13H2,1-4H3;1H
